US07348425B2
Methyl 3-cyclohexyl-2-(4,5-dibromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)-1H-indole-6-carboxylate
1H-indole-6-carboxylic acid, 3-cyclohexyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-, methyl ester. (383 mg, 1.0 mmol), 2,4,5-tribromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole (435.2 mg, 1.0 mmol) and LiCl (84 mg, 2.0 mmol) were dissolved in a mixture of ethanol (4 mL) and toluene (4 mL). An aqueous Na2CO3 solution (1M, 2.5 mL, 2.5 mmol) was added and the mixture degassed with nitrogen for 20 min. Pd(PPh3)4 (11.5 mg, 0.1 mmol) was then added and the mixture stirred at 80° C. under N2 for 3-4 h. EtOAc (6 mL) was added, followed by 20 mL of water. The organic layer was separated, dried (Na2SO4), filtered and evaporated under reduced pressure to give a residue. This was subjected to flash chromatography on silica gel ((EtOAc-Hexane 1:3) to afford 435 (71%) of the title compound as a foam. 1H NMR (300 MHz, CDCl3) δ 0.04 (s, 9H), 1.02 (t, 2H, J=8.4 Hz), 1.20-2.00 (m, 10H), 3.31 (m, 1H), 3.76 (t, 2H, J=8.4 Hz), 3.91 (s, 3H), 5.36 (s, 2H), 7.73 (dd, 1H, J=1.5, 8.5 Hz), 7.88 (d, 1H, J=8.5 Hz), 8.07 (s, 1H).

reactant | 1H-indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | 2,4,5-tribromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazole | 1.0 mmol, 435.2 mg | BrC=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C9H15Br3N2OSi
reactant | LiCl | 2.0 mmol, 84 mg | [Li+].[Cl-]
reactant | Na2CO3 | 2.5 mmol, 1M, 2.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.1 mmol, 11.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | water | 20 mL | O | H2O
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
product | Methyl 3-cyclohexyl-2-(4,5-dibromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C25H33Br2N3O3Si
